US08232300B2
(2) Ethyl (6,7,8,9-tetrahydro-5H-5-benzocycloheptenyl)acetate
A solution of ethyl (6,7,8,9-tetrahydro-5-benzocycloheptenylidene)acetate (0.550 g) in ethyl acetate (10 ml) was added with 10% palladium/carbon (0.055 g), and the mixture was stirred for 3 hours under a hydrogen flow. The reaction mixture was filtered through Celite, and then the solvent of the filtrate was concentrated under reduced pressure to obtain the title compound (0.551 g, yield: 99%).

reactant | ethyl (6,7,8,9-tetrahydro-5-benzocycloheptenylidene)acetate | 0.550 g | C1=CC=CC2=C1CCCCC2=CC(=O)OCC | C15H18O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | 0.055 g | [Pd] | Pd
product | Ethyl (6,7,8,9-tetrahydro-5H-5-benzocycloheptenyl)acetate | 0.551 g, yield: 99% | C1=CC=CC2=C1CCCCC2CC(=O)OCC | C15H20O2
